US05700750
A 1-liter continuous polymerization reactor was continuously charged hourly with 500 ml of purified toluene, 5×10-3 milligram-atom, as the zirconium atom, of the catalyst component (A) in Example 7 and 2.5 milligram-atom, as the aluminum atom, of the catalyst component (B) synthesized in Example 7. Furthermore, 150 liters/hr of ethylene, 100 liters/hr of propylene and 1.2 g/hr of 5-ethylidene-2-norbornene (ENB) were simultaneously fed into the reactor continuously, and polymerized at a temperature of 20° C. under atmospheric pressure with a residence time of 1 hour while the concentration of the polymer was maintained at 17 g/liter. The resulting polymer solution was worked up in the same way as in Example 7 to give an ethylene/propylene/ENB copolymer having an ethylene content of 83 mole %, an MFR of 3.59 g/10 min., an Mw/Mn of 2.10 and an iodine value of 13. The activity was 1,700 g of polymer/milligram-atom of zirconium.

reactant | ethylene | C=C | C2H4
reactant | propylene | C=CC | C3H6
reactant | 5-ethylidene-2-norbornene | C(C)=C1C2C=CC(C1)C2 | C9H12
catalyst | bis(cyclopentadienyl)phenoxy zirconium monochloride | [Cl-].C1(C=CC=C1)[Zr+](OC1=CC=CC=C1)C1C=CC=C1
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | ethylene/propylene ENB | C=C.C=CC.C(C)=C1C2C=CC(C1)C2 | InChI=1S/C9H12.C3H6.C2H4/c1-2-8-5-7-3-4-9(8)6-7;1-3-2;1-2/h2-4,7,9H,5-6H2,1H3;3H,1H2,2H3;1-2H2
